US07071184B2
g. {(S)-1-[3-Hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-carbamic acid tert-butyl ester
4-Amino-6-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol HCl salt (0.21 g, 0.59 mmol) was dissolved in 5 ml DMF. To this solution, was added Boc-Leu-OH (0.22 g, 0.88 mmol)and HBTU (0.34 g, 0.90 mmol) and then NMM (0.24 g, 2.4 mmol). The mixture was stirred at RT overnight. DMF was removed under high vacuum. The residue was diluted in EtOAc and washed with H2O, 10% NaHCO3 and brine. Purification by column chromatography gave the title compound (0.2 g, 68% yield). MS (M+H+): 499.1; 1H-NMR (400 Hz, CDCl3): 8.75(d, 1H), 8.0–7.75(m, 2H), 7.5 5(m, 1H) 5.10(m, 1H), 4.15–2.90(m, 10H), 2.10–1.48(m, 14H), 1.00(m, 9H).

reactant | 4-Amino-6-methyl-1-(pyridine-2-sulfonyl)-azepan-3-ol HCl salt | 0.59 mmol, 0.21 g | Cl.NC1C(CN(CC(C1)C)S(=O)(=O)C1=NC=CC=C1)O
reactant | Boc-Leu-OH | 0.88 mmol, 0.22 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | HBTU | 0.90 mmol, 0.34 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 2.4 mmol, 0.24 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | {(S)-1-[3-Hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-carbamic acid tert-butyl ester | 0.2 g, 68% yield | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(NC1C(CN(CC(C1)C)S(=O)(=O)C1=NC=CC=C1)O)=O)=O | C23H38N4O6S
